US08455479B2
To a solution of (R)-5-[3-tert-butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-butyryl]-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid (60 mg, 0.11 mmol) in dry DCM (15 mL), was added HOBT (19 mg, 0.14 mmol), EDC (27 mg, 0.14 mmol) and DIPEA (0.08 mL; 0.46 mmol) and the reaction mixture was stirred for 10 min. Pyrrolidine (0.02 mL, 0.24 mmol) was added and the reaction was stirred at r.t. overnight under nitrogen atmosphere. After the completion of the reaction, as confirmed by TLC, the crude product was extracted with DCM (15 mL) and washed with 10% HCl solution (10 mL) and saturated sodium bicarbonate solution (10 mL). The organic layer was separated washed with water, dried over Na2SO4 and concentrated in vacuo to afford the crude compound, which was purified by column chromatography (silica gel, 3:7 to 9:1 EtOAc:Pet.Ether) to afford (R)-[3-oxo-3-[3-(pyrrolidine-1-carbonyl)-4H,6H-2,5,10b-triaza-benzo[e]azulen-5-yl]-1-(2,4,5-trifluoro-benzyl)-propyl]-carbamic acid tert-butyl ester (55 mg, 83%) as a solid.

reactant | (R)-5-[3-tert-butoxycarbonylamino-4-(2,4,5-trifluoro-phenyl)-butyryl]-5,6-dihydro-4H-2,5,10b-triaza-benzo[e]azulene-3-carboxylic acid | 0.11 mmol, 60 mg | C(C)(C)(C)OC(=O)N[C@@H](CC(=O)N1CC2=C(N3C=NC(=C3C1)C(=O)O)C=CC=C2)CC2=C(C=C(C(=C2)F)F)F | C27H27F3N4O5
reactant | HOBT | 0.14 mmol, 19 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC | 0.14 mmol, 27 mg
reactant | DIPEA | 0.46 mmol, 0.08 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | Pyrrolidine | 0.24 mmol, 0.02 mL | N1CCCC1 | C4H9N
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | (R)-[3-oxo-3-[3-(pyrrolidine-1-carbonyl)-4H,6H-2,5,10b-triaza-benzo[e]azulen-5-yl]-1-(2,4,5-trifluoro-benzyl)-propyl]-carbamic acid tert-butyl ester | 55 mg, 83% | C(C)(C)(C)OC(N[C@@H](CC(N1CC2=C(N3C=NC(=C3C1)C(=O)N1CCCC1)C=CC=C2)=O)CC2=C(C=C(C(=C2)F)F)F)=O | C31H34F3N5O4
